US05321150
2-Methoxy-3-carboethoxy-5-[t-butyl(dimethyl)silyloxymethyl]-3,4,5,6-tetrahydropyridine
To a solution of 14.9 g 3-carboethoxy-5-[t-butyl(dimethyl)silyloxymethyl]-2-piperidone in 400 ml anhydrous dichloromethane at 4° C. were added 7.7 g of trimethyloxonium tetrafluoroborate. The mixture was first stirred for 90 minutes at 4° C. and then for 1 hour at 22° C. The resulting solution was poured into a saturated solution of sodium bicarbonate and extracted with three portions of dichloromethane. The combined organic extracts were washed with water and brine, dried over magnesium sulfate and evaporated to give 13.8 g of the title compound: 300-MHz 1H NMR (CDCl3) δ0.04 (s, 6H), 0.88 (s, 9H), 1.25 (t, J=7 Hz, 3H), 1.51-2.18 (m, 3H), 3.11-3.32 (m, 2H), 3.48-3.56 (m, 2H), 3.60-3.76 (m, 4H), 4.19 (t, J=7 Hz, 2H).

reactant | 3-carboethoxy-5-[t-butyl(dimethyl)silyloxymethyl]-2-piperidone | 14.9 g | C(=O)(OCC)C1C(NCC(C1)CO[Si](C)(C)C(C)(C)C)=O | C15H29NO4Si
reactant | trimethyloxonium tetrafluoroborate | 7.7 g | F[B-](F)(F)F.C[O+](C)C
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | 2-Methoxy-3-carboethoxy-5-[t-butyl(dimethyl)silyloxymethyl]-3,4,5,6-tetrahydropyridine | 13.8 g | COC1=NCC(CC1C(=O)OCC)CO[Si](C)(C)C(C)(C)C | C16H31NO4Si
